US04133809
1-Methyl-8-amino-6-phenyl-4H-s-triazolo[4,3-a][1,5]-benzodiazepin-5-one
33.5 g of 1-methyl-8-nitro-6-phenyl-4H-s-triazolo[4,3-a][1,5] benzodiazepin-5-one in 100 ml of ethanol containing 2.0 g of Raney nickel is hydrogenated at room temperature at an initial hydrogen pressure of 50 p.s.i. The reaction is stopped when 0.3 moles of hydrogen has been absorbed; the suspension is filtered and the filtrate evaporated to give the title compound.

reactant | 1-methyl-8-nitro-6-phenyl-4H-s-triazolo[4,3-a][1,5] benzodiazepin-5-one | 33.5 g | CC1=NN=C2N1C1=C(N(C(C2)=O)C2=CC=CC=C2)C=C(C=C1)[N+](=O)[O-] | C17H13N5O3
reactant | hydrogen | [H][H] | H2
reactant | hydrogen | 0.3 moles | [H][H] | H2
solvent | ethanol | 100 ml, 2.0 g | C(C)O | C2H6O
catalyst | Raney nickel | [Ni] | Ni
product | 1-Methyl-8-amino-6-phenyl-4H-s-triazolo[4,3-a][1,5]-benzodiazepin-5-one | CC1=NN=C2N1C1=C(N(C(C2)=O)C2=CC=CC=C2)C=C(C=C1)N | C17H15N5O
